US07947676B2
[(2R)-1-(2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methylphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)pyrrolidin-2-yl]methanol
The procedure described in Example 55 was repeated using 2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methylphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl methanesulfonate and (R)-2-pyrrolidinemethanol to give the title compound in 14% yield; NMR Spectrum: 1.51 (m, 1H), 1.66 (m, 2H), 1.80 (m, 1H), 2.23 (s, 3H), 2.32 (q, 1H), 2.57 (m, 1H), 2.75 (dt, 1H), 3.14 (td, 1H), 3.24 (m, 1H), 3.40 (m, 2H), 4.39 (t, 2H), 4.44 (s, 1H), 5.16 (s, 2H), 7.00 (d, 1H), 7.16 (td, 1H), 7.31 (m, 2H), 7.48 (m, 3H), 8.16 (s, 1H), 8.24 (s, 1H); Mass Spectrum: 493 (MH+).

reactant | 2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methylphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl methanesulfonate | CS(=O)(=O)OCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)C | C22H22FN5O5S
reactant | (R)-2-pyrrolidinemethanol | N1[C@H](CCC1)CO | C5H11NO
product | [(2R)-1-(2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methylphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl)pyrrolidin-2-yl]methanol | 14% yield | FC=1C=C(COC2=C(C=C(C=C2)NC2=C3C(=NC=N2)NN=C3OCCN3[C@H](CCC3)CO)C)C=CC1 | C26H29FN6O3
